US08729263B2
Step 1: 1-(Benzyloxy)-2-bromo-3-methoxybenzene
To a mixture of 3-(benzyloxy)-2-bromophenol (2.55 g, 9.14 mmol) in DMF (8 mL) was added K2CO3 (1.894 g, 13.70 mmol) and MeI (0.63 mL, 10.05 mmol) at RT. The reaction mixture was stirred overnight then quenched with water and diluted with EtOAc. The organic phase was washed with water (3×), brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (EtOAc/Heptane) to afford the title compound as a colorless oil (2.66 g, 99% yield). 1H NMR (CHLOROFORM-d) δ 7.49 (d, J=7.1 Hz, 2H), 7.36-7.43 (m, 2H), 7.30-7.35 (m, 1H), 7.20 (t, J=8.3 Hz, 1H), 6.56-6.65 (m, 2H), 5.18 (s, 2H), 3.92 (s, 3H).

reactant | 3-(benzyloxy)-2-bromophenol | 9.14 mmol, 2.55 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)O)Br | C13H11BrO2
reactant | K2CO3 | 13.70 mmol, 1.894 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 10.05 mmol, 0.63 mL | CI | CH3I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(Benzyloxy)-2-bromo-3-methoxybenzene | 2.66 g, 99% yield | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)Br | C14H13BrO2
